US06555682B1
(7-Bromo-9,9-didecyl-fluoren-2-yl)diphenylamine
A mixture of 2-bromo-7-iodo-9,9-didecylfluorene (52.13 g, 0.08 mol), diphenylamine (15.6 g, 0.0922 mol, 1.152 eq), potassium carbonate (25.5 g, 0.1844 mol), tris(2-(2-methoxyethoxy)ethyl)amine (TDA-1, 5 mL), copper bronze (3.0 g, 0.05 g atom) and xylenes (75 mL) was brought to reflux, and 35 mL, of xylenes were distilled off to reach a reaction temperature of 160° C. The reaction was maintained at this temperature for 18 hours. Some more solvent was distilled off to reach a reaction temperature of 175° C., where the reaction was held for additional 6 hours. The mixture was then cooled, diluted with 100 mL toluene, filtered, the filtrate was concentrated, and the residue was transferred to a column of 600 g of silica gel. Elution with 750 mL hexanes returned a mixture of dibromo and bromoiodo fluorenes as an oil, 10.3 g Elution with heptane-toluene, 1:1, gave the product, 33.48 g (61 % yield, 77% yield on consumed bromoiodo fluorene), m.p. 66.8-69.2° C. Mass Spec: 691, 693 (M+).

reactant | 2-bromo-7-iodo-9,9-didecylfluorene | 0.08 mol, 52.13 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)I)(CCCCCCCCCC)CCCCCCCCCC | C33H48BrI
reactant | diphenylamine | 0.0922 mol, 15.6 g, 1.152 eq | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium carbonate | 0.1844 mol, 25.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | tris(2-(2-methoxyethoxy)ethyl)amine | 5 mL | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
catalyst | copper bronze | 3.0 g | [Cu] | Cu
product | (7-Bromo-9,9-didecyl-fluoren-2-yl)diphenylamine | 61 % yield | BrC1=CC=C2C=3C=CC(=CC3C(C2=C1)(CCCCCCCCCC)CCCCCCCCCC)N(C1=CC=CC=C1)C1=CC=CC=C1 | C45H58BrN
